US06949542B2
{4-Chloro-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J24) (230 mg, 0.74 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (220 mg, 0.74 mmol) according to the general procedure M. Obtained as a light yellow solid (260 mg, 66%).

reactant | (2-amino-4-chloro-5-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.74 mmol, 230 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)N)=O | C12H14ClF3N2O2
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.74 mmol, 220 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | {4-Chloro-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-5-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C(F)(F)F)Cl)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C26H23ClF3N3O4
